US06245790B1
A mixture of methyl 3′-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl}biphenyl-3-carboxylate (204 mg) and 10% Pd/C (wet) (50 mg) in EtOAc (3 ml) and MeOH (3 ml) was stirred under hydrogen atmosphere at room temperature for 14 hours. The catalyst was removed by filtration and the filtrate was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-EtOAc 12:1 to 6:1) to give methyl 3′-{[2-(4,5-diphenyloxazol-2-yl)-1-cyclopentyl]methyl}biphenyl-3-carboxylate (172.1 mg) as an oil.

reactant | methyl 3′-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl}biphenyl-3-carboxylate | 204 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCC1)CC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)OC | C35H29NO3
solvent | EtOAc | 3 ml | CCOC(=O)C | C4H8O2
solvent | MeOH | 3 ml | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | methyl 3′-{[2-(4,5-diphenyloxazol-2-yl)-1-cyclopentyl]methyl}biphenyl-3-carboxylate | 172.1 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1C(CCC1)CC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)OC | C35H31NO3
